US05739351
1.0 g of potassium cyanide is added to a solution of 5.6 g of (3aS,4S,6R,7aR)-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]-6-tosyloxymethylperhydroisoindol-4-ol in 50 cm3 of dimethyl sulphoxide. After stirring at 45° C. for hours, the reaction mixture is cooled to 20° C., diluted with 300 cm3 of water and then extracted twice with 50 cm3 of ethyl acetate. The organic phase is subsequently washed with 150 cm3 of water, dried. over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.06-0.20 mm, diameter 4.4 cm, height 50 cm), eluting under a pressure of 0.2 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (40:60 by volume) and collecting fractions of 120 cm3. Evaporation to dryness of fractions 11 to 20 under reduced pressure (2.7 kPa) gives 2.9 g of (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol in the form of a thick white foam.

reactant | potassium cyanide | 1.0 g | [C-]#N.[K+]
reactant | (3aS,4S,6R,7aR)-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]-6-tosyloxymethylperhydroisoindol-4-ol | 5.6 g | COC1=C(C=CC=C1)[C@]1([C@@H]2CN(C[C@@H]2C[C@H](C1)COS(=O)(=O)C1=CC=C(C)C=C1)C([C@@H](C)C1=C(C=CC=C1)OC)=O)O | C33H39NO7S
solvent | dimethyl sulphoxide | 50 cm3 | CS(=O)C | C2H6OS
solvent | water | 300 cm3 | O | H2O
product | (3aS,4S,6S,7aR)-6-cyanomethyl-4-(2-methoxyphenyl)-2-[(S)-2-(2-methoxyphenyl)propionyl]perhydroisoindol-4-ol | 2.9 g | C(#N)C[C@H]1C[C@@]([C@@H]2CN(C[C@@H]2C1)C([C@@H](C)C1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C27H32N2O4
